US05624922
Eighty-five grams (0.38 moles) of 4-phenyl-1(2H)-phthalazinone was added to 18.4 g (0.47 moles) of sodium hydride in 1 L of DMSO in four portions. The mixture was stirred for two hours at room temperature until evolution of hydrogen had ceased, and 95.5 g (0.52 moles) of 2-bromoethylbenzene was added. The mixture was stirred 1.5 hours at room temperature, 1 L of 2N NaOH was added and the slurry was poured into 1 L of water. The product was filtered off and dried to yield 118 g (95%) of 4-phenyl-2-(2-phenylethyl)-1(2H)-phthalazinone, mp 135-138.

reactant | 4-phenyl-1(2H)-phthalazinone | 0.38 moles, Eighty-five grams | C1(=CC=CC=C1)C1=NNC(C2=CC=CC=C12)=O | C14H10N2O
reactant | sodium hydride | 0.47 moles, 18.4 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-bromoethylbenzene | 0.52 moles, 95.5 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | NaOH | 2N, 1 L | [OH-].[Na+]
solvent | DMSO | 1 L | CS(=O)C | C2H6OS
solvent | water | 1 L | O | H2O
product | 4-phenyl-2-(2-phenylethyl)-1(2H)-phthalazinone | 118 g, 95% | C1(=CC=CC=C1)C1=NN(C(C2=CC=CC=C12)=O)CCC1=CC=CC=C1 | C22H18N2O
